US08541457B2
Synthesis of 2-(4-Benzylbenzamido)-N-(2-cyanoethyl)-4-methylthiazole-5-carboxamide
Following the procedure as described in Example 20, making variation only as required to use 2-amino-N-(2-cyanoethyl)-4-methylthiazole-5-carboxamide to replace 2-amino-N-ethyl-4-methylthiazole-5-carboxamide to react with 4-benzylbenzoyl chloride, the title compound was obtained; 1H NMR (CD3OD, 400 MHz) δ 7.90 (d, J=8.1 Hz, 2H), 7.35 (d, J=8.6 Hz, 2H), 7.27-7.10 (m, 5H), 4.03 (s, 2H), 3.54 (t, J=6.6 Hz, 2H), 2.73 (t, J=6.6 Hz, 2H), 2.54 (s, 3H), 2.32 (s, 1H); MS (ES+) m/z 405 (M+1).

reactant | 2-amino-N-(2-cyanoethyl)-4-methylthiazole-5-carboxamide | NC=1SC(=C(N1)C)C(=O)NCCC#N | C8H10N4OS
reactant | 2-amino-N-ethyl-4-methylthiazole-5-carboxamide | NC=1SC(=C(N1)C)C(=O)NCC | C7H11N3OS
reactant | 4-benzylbenzoyl chloride | C(C1=CC=CC=C1)C1=CC=C(C(=O)Cl)C=C1 | C14H11ClO
product | 2-(4-Benzylbenzamido)-N-(2-cyanoethyl)-4-methylthiazole-5-carboxamide | C(C1=CC=CC=C1)C1=CC=C(C(=O)NC=2SC(=C(N2)C)C(=O)NCCC#N)C=C1 | C22H20N4O2S
